US06251936B1
[4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2. 6-diisopropyl-phenoxy]-acetic acid methyl ester
A solution of 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diisopropyl-phenol (0.42 g, 0.89 mmol), methyl bromoacetate (0.36 mL, 3.8 mmol), and potassium carbonate (0.42 g, 3.0 mmol) in anhydrous N,N-dimethylformamide (3.5 mL) at room temperature under nitrogen was stirred for 2 days. The reaction mixture was diluted with water and extracted with diethyl ether. Concentration under reduced pressure and chromatography with petroleum ether:ethyl acetate (95:5) gave the title compound as a white solid (0.42 g, 87%): NMR (DMSO-d6): δ8.20 (d, 1H), 7.66-7.61 (m, 1H), 7.48 (d, 2H), 7.11 (s, 2H), 4.56 (s, 2H), 3.77 (s, 3H), 3.42-3.27 (m, 2H), 2.42 (s, 3H), 1.51 (s, 3H), 1.18 and 1.16 (two doublets, 12H).

reactant | 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diisopropyl-phenol | 0.89 mmol, 0.42 g | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(C(=C2)C(C)C)O)C(C)C | C26H27BrOS
reactant | methyl bromoacetate | 3.8 mmol, 0.36 mL | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 3.0 mmol, 0.42 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2. 6-diisopropyl-phenoxy]-acetic acid methyl ester | 0.42 g, 87% | COC(COC1=C(C=C(C=C1C(C)C)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C(C)C)=O | C29H31BrO3S
